US08349880B2
N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(4-(2,2,2-trifluoroethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A solution of 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine (2.01 g, 3.54 mmol), sodium iodide (2.65 g, 17.7 mmol), and diisoproplylethylamine (1.55 mL, 8.85 mmol) in acetone (10 mL) was heated in a sealed vessel at 100° C. for 4 h. The reaction was concentrated in vacuo. The crude product was purified using silica gel column chromatography (50% EtOAc/chloroform) to afford 474 mg (25% yield) of the titled compound as an off-white solid. LC-MS (M+H)+ 532.5. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.55 (s, 1 H), 8.11 (d, J=7.6 Hz, 1 H), 7.47 (d, J=11.6 Hz, 1 H), 7.16 (d, J=8.5 Hz, 2 H), 6.95 (d, J=8.5 Hz, 2 H), 6.86 (d, J=3.4 Hz, 1 H), 4.36 (q, J=8.2 Hz, 2 H), 4.17-4.26 (m, 3 H), 3.83 (s, 3 H), 2.47 (s, 3 H), 2.15-2.28 (m, 1 H), 1.93-2.13 (m, 3 H), 1.80-1.93 (m, 2 H).

reactant | 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | 3.54 mmol, 2.01 g | ClCCCCC(C1=CC=C(C=C1)OCC(F)(F)F)C1=NC(=NN1)NC1=C(C=C(C(=C1)OC)N1N=C(N=C1)C)F | C25H26ClF4N7O2
reactant | sodium iodide | 17.7 mmol, 2.65 g | [I-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(4-(2,2,2-trifluoroethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 474 mg, 25% yield | FC1=C(C=C(C(=C1)N1N=C(N=C1)C)OC)NC1=NN2C(C(CCCC2)C2=CC=C(C=C2)OCC(F)(F)F)=N1 | C25H25F4N7O2
